US06677352B1
To a flask containing 2-anilino-5-chloro-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one (10 mg, 0.03 mmol) in EtOAc (2 mL) and EtOH (2 mL) at room temperature was added a drop of TEA, and Pd/C (10 weight % on activated carbon Degussa type E101, 2 mg). The system was purged with H2 and left stirring at room temperature overnight. The reaction mixture was filtered and concentrated in vacuo to provide 2-anilino-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one (8 mg, 91%): LCMS RT: 1.22 min, MH+: 328.3.

reactant | 2-anilino-5-chloro-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one | 0.03 mmol, 10 mg | N(C1=CC=CC=C1)C=1N(C2=CC(=NC(=C2C(C1)=O)Cl)C)C1=CC=CC=C1 | C21H16ClN3O
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 2 mL | CCO | C2H6O
catalyst | Pd/C | 2 mg | [Pd] | Pd
product | 2-anilino-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one | 8 mg, 91% | N(C1=CC=CC=C1)C=1N(C2=CC(=NC=C2C(C1)=O)C)C1=CC=CC=C1 | C21H17N3O
